US04444766
Diethyl benzylmalonate is reduced with lithium aluminium hydride to give 2-benzylpropane-1,3-diol (m.p. 64°-65° C.) and esterified with an equimolar amount of benzenesulphochloride in anhydrous pyridine to give 2-benzylpropane-1,3-diol monobenzenesulphonate (oily substance). Reaction thereof with the sodium salt of hexadecanethiol in ethanol gives the desired 2-benzyl-3-hexadecylthiopropan-1-ol (wax-like compound).

reactant | Diethyl benzylmalonate | C(C1=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C14H18O4
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-benzylpropane-1,3-diol | C(C1=CC=CC=C1)C(CO)CO | C10H14O2
